US04593102
N-[2-[bis(1-Methylethyl)amino]ethyl]-3-(phenylsulfonyl)-1-piperidinecarboxamide
Following the procedure of Example 16, diisopropylaminoethylamine and 1,1'-carbonyldiimidazole and 3-(phenylsulfonyl)piperidine were reacted to give the title compound which was crystallized from diethyl ether-hexane as white solid in 59.8% yield, m.p. 82.5°-84° C.

reactant | diisopropylaminoethylamine | C(C)(C)N(C(C)C)CCN | C8H20N2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(phenylsulfonyl)piperidine | C1(=CC=CC=C1)S(=O)(=O)C1CNCCC1 | C11H15NO2S
product | N-[2-[bis(1-Methylethyl)amino]ethyl]-3-(phenylsulfonyl)-1-piperidinecarboxamide | 59.8% yield | CC(C)N(CCNC(=O)N1CC(CCC1)S(=O)(=O)C1=CC=CC=C1)C(C)C | C20H33N3O3S
